US06291464B1
To a stirred solution of (S)-1-tert-butoxycarbonyl-2-methyl-3-oxo-4-benzylpiperazine (1.0 g) in tetrahydrofuran (15 ml) was added borane-dimethylsulfide complex (0.49 ml) at 0° C. under nitrogen atmosphere. After stirring at 45° C. for 1.5 hours, borane-dimethylsulfide complex (0.46 ml) was added and the reaction mixture was stirred at 45° C. for another 2 hours. After cooled to 0° C., the reaction mixture was quenched with methanol. After evaporation of the solvent, the residue was purified by flash column chromatography eluting with a mixture of ethyl acetate and n-hexane (1:8) to give (S)-1-tert-butoxycarbonyl-2-methyl-4-benzylpiperazine (934 mg).

reactant | (S)-1-tert-butoxycarbonyl-2-methyl-3-oxo-4-benzylpiperazine | 1.0 g | C(C)(C)(C)OC(=O)N1[C@H](C(N(CC1)CC1=CC=CC=C1)=O)C | C17H24N2O3
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (S)-1-tert-butoxycarbonyl-2-methyl-4-benzylpiperazine | 934 mg | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)CC1=CC=CC=C1)C | C17H26N2O2
